US05256675
A mixture of 2-acetylamino-4-hydroxymethyl-5-(4-pyridylthio)thiazole (3.0 g) in a mixture of concentrated hydrochloric acid (8 ml) and ethanol (100 ml) was refluxed for 2.5 hours with stirring. The reaction mixture was concentrated under reduced pressure and the residue was triturated with acetone. The precipitates were collected by filtration, washed with isopropyl ether and were recrystallized from a mixture of ethanol and isopropyl ether to give 2-amino-4-hydroxymethyl-5-(4-pyridylthio)thiazole dihydrochloride (2.5 g, yield: 75.3%). mp: 231°-237° C. (dec.) IR (Nujol) 3350, 2300, 1610, 1560 cm-1

reactant | 2-acetylamino-4-hydroxymethyl-5-(4-pyridylthio)thiazole | 3.0 g | C(C)(=O)NC=1SC(=C(N1)CO)SC1=CC=NC=C1 | C11H11N3O2S2
reactant | hydrochloric acid | 8 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-amino-4-hydroxymethyl-5-(4-pyridylthio)thiazole dihydrochloride | 2.5 g, yield: 75.3% | Cl.Cl.NC=1SC(=C(N1)CO)SC1=CC=NC=C1 | InChI=1S/C9H9N3OS2.2ClH/c10-9-12-7(5-13)8(15-9)14-6-1-3-11-4-2-6;;/h1-4,13H,5H2,(H2,10,12);2*1H
